US06977262B2
4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(1-methylpiperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine
To a solution of 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine (0.7 g) in MeOH (200 mL) was added 37% formaldehyde (0.18 g), sodium cyanoborohydride (0.19 g) and acetic acid (0.36 g) at room temperature and the mixture was stirred overnight. After alkalification with sodium bicarbonate, the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was washed with acetonitrile, and the precipitated crystals were collected by filtration to give the title compound (0.32 g) as yellow crystals.

reactant | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | 0.7 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCNCC2)=NNC1 | C18H17N7O
reactant | formaldehyde | 0.18 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.19 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.36 g | C(C)(=O)O | C2H4O2
solvent | MeOH | 200 mL | CO | CH4O
product | 4-(2,1,3-Benzoxadiazol-4-yl)-5-cyano-4,7-dihydro-6-(1-methylpiperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine | 0.32 g | N=1ON=C2C1C=CC=C2C2C=1C(NC(=C2C#N)C2CCN(CC2)C)=NNC1 | C19H19N7O
